US07456315B2
To a flask containing 2.0 g (0.0068 mol) of 2-allyloxymethyl-3-methoxy-benzoic acid N′-tert-butyl-hydrazide dissolved in 15 mL of CH2Cl2, was added 1.27 g (0.0075 mol) of 3,5-dimethylbenzoyl chloride in 10 mL of CH2Cl2 and 2.84 g of K2CO3 (0.02 mol) in 30 mL of H2O. The mixture was stirred at room temperature for 24 hours. The reaction mixture was diluted and partitioned, and the organic phase was dried and solvent was removed in vacuio. The product was purified by silica gel chromatography; eluting in 25% ethyl acetate: hexane fractions, to yield 2.40 g of pure 3,5-dimethyl-benzoic acid N′-(2-allyloxymethyl-3-methoxy-benzoyl)-N-tert-butyl-hydrazide. 1H NMR (CDCl3, 300 MHz) δ (ppm): 7.2 (t, 1H,) 7.1 (s, 1H), 7.05 (d, 2H), 6.95 (m, 2H), 5.9 (m, 1H), 5.2-5.3 (q, 2H), 4.5 (d, 2H), 3.9 (m, 2H), 3.80 (s, 3H), 2.245 (s, 6H), 1.547 (s, 9H).

reactant | 2-allyloxymethyl-3-methoxy-benzoic acid N′-tert-butyl-hydrazide | 0.0068 mol, 2.0 g | C(C)(C)(C)NNC(C1=C(C(=CC=C1)OC)COCC=C)=O | C16H24N2O3
reactant | 3,5-dimethylbenzoyl chloride | 0.0075 mol, 1.27 g | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
reactant | K2CO3 | 0.02 mol, 2.84 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 30 mL | O | H2O
product | 3,5-dimethyl-benzoic acid N′-(2-allyloxymethyl-3-methoxy-benzoyl)-N-tert-butyl-hydrazide | 2.40 g | C(C=C)OCC1=C(C(=O)NN(C(C2=CC(=CC(=C2)C)C)=O)C(C)(C)C)C=CC=C1OC | C25H32N2O4
